US03953604
A solution of 2,6-dihydroxyacetophenone (7.6 g), 4-cyano-3 -methoxyphenylglycidyl ether (10.25 g) and benzyltrimethylammonium hydroxide (5 drops of a 40% solution) in 2-ethoxyethanol (37.5 ml) was heated under reflux for 48 hrs. After removal of the solvent under reduced pressure, a beige solid remained. This was triturated with ether, filtered, and washed with a mixture of ethanol and ether to yield 1-(2-acetyl-3 -hydroxyphenoxy(-2-hydroxy-3-(4-cyano-3-methoxyphenoxy)propane (12.15 g) as a primrose solid, m.p. 155°-157° .

reactant | 2,6-dihydroxyacetophenone | 7.6 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | 4-cyano-3 -methoxyphenylglycidyl ether | 10.25 g | C(#N)C1=C(C=C(C=C1)C(C1CO1)OC(C1CO1)C1=CC(=C(C=C1)C#N)OC)OC | C22H20N2O5
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 2-ethoxyethanol | 37.5 ml | C(C)OCCO | C4H10O2
product | 2-hydroxy-3-(4-cyano-3-methoxyphenoxy)propane | 12.15 g | OC(C)COC1=CC(=C(C=C1)C#N)OC | C11H13NO3
